US08048879B2
Synthesis of 1-(4-pyrrolidin-1-yl-3,6-dihydro-2H-pyridin-1-yl)-ethanone (A)
A mixture of 4.95 mL (40 mmol) of 1-acetyl-4-piperidinone, 3.64 mL (44 mmol) of pyrrolidine, 15 mL of toluene and a catalytic quantity of p-toluenesulfonic acid was heated for 12 h with refluxing on a water separator. After removal of the solvent under a vacuum, 7.7 g (99% of theoretical) of the desired product 1-(4-pyrrolidin-1-yl-3,6-dihydro-2H-pyridin-1-yl)-ethanone (A) were obtained in the form of a brown-red oil.

reactant | 1-acetyl-4-piperidinone | 40 mmol, 4.95 mL | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
reactant | pyrrolidine | 44 mmol, 3.64 mL | N1CCCC1 | C4H9N
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 1-(4-pyrrolidin-1-yl-3,6-dihydro-2H-pyridin-1-yl)-ethanone | N1(CCCC1)C=1CCN(CC1)C(C)=O | C11H18N2O
